US04344954
2,3,5,6,7,8-Hexahydro-2,3-diphenylthiazolo[3,2-a][1,3]-diazepin-3-ol methanesulfonate
A mixture of 7.75 ml. of methanesulfonyl chloride in 200 ml. of toluene is added, over a period of one hour, to a stirred mixture of 21.2 g. of benzoin, 28 ml. of triethylamine and 100 ml. of toluene. The mixture is allowed to stand 2 hours, 100 ml. of water is added and the emulsion is filtered giving a solid which is washed with water and dried, giving 14.5 g. of benzoin methanesulfonate esters. A 2.90 g. portion of benzoin methanesulfonate esters and 1.30 g. of hexahydro-2H-1,3-diazepin-2-thione are suspended in 50 ml. of warm acetone and heated at reflux for 4 hours. The mixture is cooled, the solid is collected, washed with acetone then ether and dried in vacuo at 60° C., giving 3.9 g. of the desired product, m.p. 176°-178° C.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | benzoin | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | hexahydro-2H-1,3-diazepin-2-thione | N1C(NCCCC1)=S | C5H10N2S
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3,5,6,7,8-Hexahydro-2,3-diphenylthiazolo[3,2-a][1,3]-diazepin-3-ol methanesulfonate | CS(=O)(=O)OC1(C(SC=2N1CCCCN2)C2=CC=CC=C2)C2=CC=CC=C2 | C20H22N2O3S2
